US09024019B2
Step A: 1-benzyloxy-3-chloro-propan-2-one
To a solution of 1-benzyloxy-3-chloro-propan-2-ol (10.0 g, 50.0 mmol) [prepared according to Journal of Organic Chemistry (1990), 55, 4897] in ethyl acetate (125 mL) was added a solution of NaHCO3 (12.6 g, 150 mmol) and NaBr (5.66 g, 55.0 mmol) in water (75 mL). After cooling of the biphasic mixture to 0° C., 2,2,6,6-Tetramethyl-piperidin-1-yl)oxyl (“TEMPO”) (391 mg, 2.50 mmol) was added in one portion followed by dropwise addition of NaOCl (6 wt % in water, 85.4 mL, 75.0 mmol) to the vigorously stirred solution. After completion of the addition, stirring at 0° C. was continued for 30 min. Subsequently, a solution of aqueous Na2SO3 was added until the reaction mixture had completely discolored. Additional solid Na2SO3 was added to saturate the aqueous phase. The mixture was transferred to a separation funnel and the layers were separated. The organic layer was washed with brine (100 mL), dried (Na2SO4), filtered and concentrated under reduced pressure (at 20° C.). The remaining oil was used without further purification. 1H NMR (400 MHz, CDCl3) 4.26 (s, 2H), 4.33 (s, 2H), 4.62 (s, 2H), 7.31-7.45 (m, 5H).

reactant | 1-benzyloxy-3-chloro-propan-2-ol | 50.0 mmol, 10.0 g | C(C1=CC=CC=C1)OCC(CCl)O | C10H13ClO2
reactant | NaHCO3 | 150 mmol, 12.6 g | C(=O)(O)[O-].[Na+]
reactant | NaBr | 55.0 mmol, 5.66 g | [Na+].[Br-]
reactant | NaOCl | 75.0 mmol, 85.4 mL | [O-]Cl.[Na+]
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | ethyl acetate | 125 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 75 mL | O | H2O
product | 1-benzyloxy-3-chloro-propan-2-one | C(C1=CC=CC=C1)OCC(CCl)=O | C10H11ClO2
